US08859535B2
N-[2-(4-Bromo-phenyl)-2-hydroxy-propyl]-acetamide
A solution of 1-bromo-4-iodobenzene (1.843 g, 6.51 mmol) in THF (10 ml) was immersed in a dry ice-acetone bath. Ethylmagnesiumbromid (3M) in diethylether (2.90 ml, 8.69 mmol) was added very slowly by a syringe at −41° C. to −39° C. (exothermic reaction, grey precipitation!) and the reaction was kept at −40° C. for 1 hr. A solution of 1-acetamido-acetone (0.5 g, 4.34 mmol) in THF (4 ml) was added slowly below −60° C. The reaction was allowed to warm up to room temperature. The reaction mixture was quenched with aqueous saturated NH4Cl solution before dilution with ethyl acetate. The organic phase was separated and washed with brine. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to obtain the crude material which was purified by preparative. HPLC (reversed phase). Fractions containing the product were pooled and worked up (addition of NaHCO3, removal of acetonitrile followed by extraction with DCM) to obtain title compound as a yellowish solid (13% yield).

reactant | 1-bromo-4-iodobenzene | 6.51 mmol, 1.843 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | Ethylmagnesiumbromid | 3M | C(C)[Mg]Br
reactant | diethylether | 8.69 mmol, 2.90 ml | C(C)OCC | C4H10O
reactant | 1-acetamido-acetone | 4.34 mmol, 0.5 g | C(C)(=O)NCC(=O)C | C5H9NO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-[2-(4-Bromo-phenyl)-2-hydroxy-propyl]-acetamide | 13% yield | BrC1=CC=C(C=C1)C(CNC(C)=O)(C)O | C11H14BrNO2
